US07622469B2
2-Amino-1,6-dihydro-6,6-dimethyl-4-decylamino-1-(4′-methoxyphenyl)-1,3,5-triazine hydrochloride
50 ml of methanol, 40 ml of acetone and 0.2 ml of concentrated hydrochloric acid were added to 1.5 g (3.6 mmol) of N1-(4-methoxyphenyl)-N5-decyl-biguanide dihydrochloride, and the mixture was refluxed for 20 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1)). The eluate was dissolved in 80% aqueous acetonitrile, and the solvent was distilled off under reduced pressure, followed by sufficient drying under reduced pressure to obtain 0.92 g of a pale yellow resinous solid.

reactant | methanol | 50 ml | CO | CH4O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | N1-(4-methoxyphenyl)-N5-decyl-biguanide dihydrochloride | 3.6 mmol, 1.5 g | Cl.Cl.COC1=CC=C(C=C1)NC(=N)NC(=N)NCCCCCCCCCC
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-Amino-1,6-dihydro-6,6-dimethyl-4-decylamino-1-(4′-methoxyphenyl)-1,3,5-triazine hydrochloride | 0.92 g | Cl.NC=1N(C(N=C(N1)NCCCCCCCCCC)(C)C)C1=CC=C(C=C1)OC | InChI=1S/C22H37N5O.ClH/c1-5-6-7-8-9-10-11-12-17-24-21-25-20(23)27(22(2,3)26-21)18-13-15-19(28-4)16-14-18;/h13-16H,5-12,17H2,1-4H3,(H3,23,24,25,26);1H
